US09359350B2
Synthesis of 1-(2,4,6-trimethylbenzyl)-1H-indole-6-carboxylic acid [3] (hereinafter referred to as the compound [3])
The titled compound (790 mg) as a pale yellow solid was prepared from methyl indole-6-carboxylate (1.0 g) and 2,4,6-trimethylbenzyl chloride (1.2 g) according to the method of Example 1.

reactant | methyl indole-6-carboxylate | 1.0 g | N1C=CC2=CC=C(C=C12)C(=O)OC | C10H9NO2
reactant | 2,4,6-trimethylbenzyl chloride | 1.2 g | CC1=C(CCl)C(=CC(=C1)C)C | C10H13Cl
product | 1-(2,4,6-trimethylbenzyl)-1H-indole-6-carboxylic acid | 790 mg | CC1=C(CN2C=CC3=CC=C(C=C23)C(=O)O)C(=CC(=C1)C)C | C19H19NO2
